US04016165
7-Chloro-2-[(2-chloro-1-methylethylidene)-hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine
A mixture of 3.19 g. (0.01 mole) of 7-chloro-5-(o-chlorophenyl)-2-hydrazino-3H-1,4-benzodiazepine and 100 ml. of tetrahydrofuran, under nitrogen, was cooled to 0° C. and 1 ml. of chloropropanone was slowly added with stirring. The mixture was allowed to warm to room temperature; after one-half hour all the solid had dissolved. After stirring for a total of 2 hours, thin layer chromatography (SiO2, 20% methanol/benzene) showed essentially one spot. Evaporation at room temperature in vacuo gave a light brown gum which was dissolved in absolute ether and filtered. The solution was concentrated by a stream of N2 on a steam bath to a small volume and pentane was added. After cooling in the refrigerator, the resulting crystals were collected, washed with ether and pentane and dried, yielding 3.82 g. (97%) of 7-chloro-2-[(2-chloro-1-methylethylidene)hydrazinoe]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-chloro-5-(o-chlorophenyl)-2-hydrazino-3H-1,4-benzodiazepine | 0.01 mole | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12Cl2N4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | chloropropanone | ClCC(C)=O | C3H5ClO
reactant | methanol benzene | CO.C1=CC=CC=C1
solvent | ether | CCOCC | C4H10O
product | 7-Chloro-2-[(2-chloro-1-methylethylidene)-hydrazino]-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=C(CCl)C)C2=C(C=CC=C2)Cl)C1 | C18H15Cl3N4
